US08937083B2
Preparation of (4-chloro-2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-methyl-amine
A mixture of methyl-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-amine (0.35 g, 1.8 mmol) and N-chlorosuccinimide (0.273 g, 2 mmol) was combined in acetonitrile (3 mL), stirred at room temperature for 30 minutes, concentrated under reduced pressure and purified using silica gel chromatography eluting with a gradient of EtOAc in hexanes to yield the title compound as a yellow oil (0.096 g, 23%): IR (thin film) 1581.6 cm−1; 1H NMR (400 MHz, CDCl3) δ 9.12 (d, J=1.5 Hz, 1H), 8.57 (dd, J=4.8, 1.3 Hz, 1H), 8.15 (ddd, J=7.8, 2.0, 2.0 Hz, 1H), 7.33 (dd, J=8.1, 5.1 Hz, 1H), 3.80 (s, 3H), 2.91 (d, J=5.8 Hz, 3H); ESIMS (m/z) 225.6 [M+2].

reactant | methyl-(2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-amine | 1.8 mmol, 0.35 g | CNC=1N(N=C(C1)C=1C=NC=CC1)C | C10H12N4
reactant | N-chlorosuccinimide | 2 mmol, 0.273 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (4-chloro-2-methyl-5-pyridin-3-yl-2H-pyrazol-3-yl)-methyl-amine | 0.096 g, 23% | ClC1=C(N(N=C1C=1C=NC=CC1)C)NC | C10H11ClN4
